US09334269B2
To 2-hydrazinopyrazine (1.60 g, 14.55 mmol) was added 4-chloro-benzoic acid (3 eq) followed by 20 mL of polyphosphoric acid, and the reaction mixture was stirred at 110° C. for 18 h. The hot PPA solution was added to ice and neutralized by the addition of ammonium hydroxide (highly exothermic!). The aqueous solution was extracted with ethyl acetate, washed with brine, and dried over anhydrous sodium sulfate. Concentration followed by flash chromatography (silica gel, 1:1 hexanes: ethyl acetate) afforded 3-(4-chlorophenyl)-[1,2,4]triazolo[4,3-a]pyrazine, as a viscous oil.

reactant | 2-hydrazinopyrazine | 14.55 mmol, 1.60 g | N(N)C1=NC=CN=C1 | C4H6N4
reactant | 4-chloro-benzoic acid | 3 eq | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 3-(4-chlorophenyl)-[1,2,4]triazolo[4,3-a]pyrazine | ClC1=CC=C(C=C1)C1=NN=C2N1C=CN=C2 | C11H7ClN4
